US07232913B2
To a two-necked flask containing carbazole (4.0 g, 23.9 mmol), 1,6-dibromohexane (29.2 g, 120 mmol) in 100 mL of anhydrous THF was added 0.86 g (35.8 mmol) of sodium hydride. This mixture was refluxed under nitrogen for 2 days. The reaction mixture was cooled down to room temperature and extracted with ethyl acetate. The non-reacted 1,6-dibromohexane and carbazole were removed by vacuum distillation (100° C./16 mmHg) and column chromatography (ethyl acetate/hexane=1:30), respectively. Pure N-(6-bromohexyl)carbazole was obtained in a white crystal (4 g, 51%). The 100 mL flask containing 30 mL of dry DMF was cooled down to 0° C. Phosphorous oxychloride (4.4 g, 28.7 mmol) was added dropwise maintaining the temperature below 5° C. The reaction mixture was stirred for 30 min. 1.9 g (5.75 mmol) of N-(6-bromohexyl)carbazole in 20 mL of dry DMF was added to the above solution and the temperature was slowly increased to 90° C. After the solution was heated for 2 days, it was cooled down to room temperature and poured into cold water. The pH of the solution was adjusted to around 7 with aqueous NaOH solution. The product was extracted with methylene chloride, dried over magnesium sulfate, and purified by silica gel column chromatography (ethyl acetate/hexane=1:5). A light brown crystal was obtained. (1.3 g, 72%). 1H-NMR (200 MHz, CDCl3): δ 10.1 (s, 1H, —CHO), 8.62 (m, 1H), 8.17 (m, 1H), 8.02 (m, 1H), 7.59-7.27 (m, 4H), 4.36 (t, 2H, ═NCH2—, J=7.1 Hz), 3.50 (t, 2H, —CH2Cl, J=6.4 Hz), 1.93 (m, 2H), 1.74 (m, 2H), 1.45 (m, 4H). 13C-NMR (100 MHz, CDCl3): δ 191.9, 144.2, 141.3, 128.7, 127.3, 126.9, 124.2, 123.2, 123.1, 120.9, 120.5, 109.5, 109.0, 45.0, 43.4, 32.5, 29.0, 26.7, 26.6. HRMS (EI): m/z=313.1227 (M+), Δ=2.1 ppm.

reactant | carbazole | 23.9 mmol, 4.0 g | C1=CC=CC=2C3=CC=CC=C3NC12 | C12H9N
reactant | 1,6-dibromohexane | 120 mmol, 29.2 g | BrCCCCCCBr | C6H12Br2
reactant | sodium hydride | 35.8 mmol, 0.86 g | [H-].[Na+]
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | N-(6-bromohexyl)carbazole | BrCCCCCCN1C2=CC=CC=C2C=2C=CC=CC12 | C18H20BrN
